US06956050B2
STEP 2 4-chloro-N-{[(2-{4-[2-ethyl-4-(6-methylpyridin-2-yl)-1H-imidazol-1-yl]phenyl}ethyl)amino]carbonyl}benzenesulfonamide
The title compound was prepared according to the procedure described in step 5 of Example 26 from tert-butyl 2-{4-[2-ethyl-4-(6-methylpyridin-2-yl)-1H-imidazol-1-yl]phenyl}ethylcarbamate and 4-chlorobenzenesulfonyl isocyanate. MS (ESI) m/z 524 [M+H]+, 522 [M−H]−, 1H-NMR (DMSO d-6)δ1.20 (3H, t, J=7.3 Hz), 2.49 (3H, s), 2.67 (2H, q, J=7.5 Hz), 2.78 (2H, t, J=7.1 Hz), 3.25-3.32 (2H, m), 6.66 (1H, t, J=5.5 Hz), 7.10 (2H, 1, J=6.4 Hz), 7.33 (2H, d, J=8.4 Hz), 7.42 (2H, d, J=8.4 Hz), 7.7-7.76 (4H, m), 7.93 (1H, d, J=8.6 Hz).

reactant | tert-butyl 2-{4-[2-ethyl-4-(6-methylpyridin-2-yl)-1H-imidazol-1-yl]phenyl}ethylcarbamate | C(C)C=1N(C=C(N1)C1=NC(=CC=C1)C)C1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C24H30N4O2
reactant | 4-chlorobenzenesulfonyl isocyanate | ClC1=CC=C(C=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
product | 4-chloro-N-{[(2-{4-[2-ethyl-4-(6-methylpyridin-2-yl)-1H-imidazol-1-yl]phenyl}ethyl)amino]carbonyl}benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)NC(=O)NCCC1=CC=C(C=C1)N1C(=NC(=C1)C1=NC(=CC=C1)C)CC | C26H26ClN5O3S
